US04160086
7-(α-Carboxythien-2-ylacetamido)-3-(1-methyl-1H-tetrazol-5-ylthio)methylceph-3-em-4-carboxylic acid disodium salt
A suspension of thien-2-ylmalonic acid (0.93 g., 0.005 M) in water (25 ml.) was adjusted to pH 6.0 with saturated sodium bicarbonate solution, 7-amino-3-(1-methyl-1H-tetrazol-5-ylthio)methylceph-3-em-4-carboxylic acid was added, the solution again adjusted to 6.0, cooled to 0° and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.01 g., 0.005 M) added. The mixture was maintained at pH 5.8-6.0 with 6 N hydrochloric acid for two hours at room temperature then saturated sodium bicarbonate was added to pH 7.7 and the solution washed with ethyl acetate (50 ml.). The solution was acidified to pH 4.0, washed with ethyl acetate (2×25 ml.), acidified to pH 2.0 and extracted with ethyl acetate (2×50 ml.), The extracts were washed with water (25 ml.) and brine (25 ml.), dried over anhydrous magnesium sulphate, treated with 2 N sodium 2-ethylhexoate in methylisobutylketone (2 ml.), diluted with ether (200 ml.) and the precipitated disodium salt collected and dried in vacuo. Yield 1.16 g., 43.0%; U.V. spectrum (95% ethanol), λmax (ε=8.250). Paper chromatography (butanol/ethanol/water) showed a zone at Rf =0.05.

reactant | thien-2-ylmalonic acid | 0.005 M, 0.93 g | S1C(=CC=C1)C(C(=O)O)C(=O)O | C7H6O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | 7-amino-3-(1-methyl-1H-tetrazol-5-ylthio)methylceph-3-em-4-carboxylic acid | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O | C10H12N6O3S2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.005 M, 1.01 g | Cl.CN(CCCN=C=NCC)C
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | water | 25 ml | O | H2O
product | 7-(α-Carboxythien-2-ylacetamido)-3-(1-methyl-1H-tetrazol-5-ylthio)methylceph-3-em-4-carboxylic acid disodium salt | [Na+].[Na+].C(=O)(O)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)[O-])C1=O)C=1SC=CC1.C(=O)(O)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)[O-])C1=O)C=1SC=CC1 | InChI=1S/2C17H16N6O6S3.2Na/c2*1-22-17(19-20-21-22)32-6-7-5-31-14-10(13(25)23(14)11(7)16(28)29)18-12(24)9(15(26)27)8-3-2-4-30-8;;/h2*2-4,9-10,14H,5-6H2,1H3,(H,18,24)(H,26,27)(H,28,29);;/q;;2*+1/p-2/t2*9?,10?,14-;;/m11../s1
